Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute loss of vision in R eye
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The pt is a ___ ambidextrous man with a history of 
hyperlipidemia and episodes of blurred vision and dizziness 
thought possibly to be related to a migrainous phenomenon who 
now presents with an episode of complete vision loss in his 
right eye. He reports that he was feeling well until about 9am 
this morning, when his vision began to go blurry. He says this 
felt similar to the episodes he has had in the past, although it 
seemed to be more confined to his right eye. Shortly thereafter 
he suddenly lost vision in his right eye. It happened rather 
quickly and he does not recall a shade coming down, just that 
his vision suddenly went black. When he covered his right eye he 
could see normally out of his left eye. His vision was 
completely black for ___ minutes, after which he began to see 
splotches of intense blue and green colors that were moving 
around, along with flashing lights. There was also a black spot 
in his vision which also seemed to be moving. This lasted for a 
few minutes, after which his vision slowly began to come back. 
He reports that it seemed to come back in pieces, and the inner 
lower quadrant was the slowest to return. He describes "prickly 
lights" like a starry sky in this quadrant as the rest of his 
vision returned. Finally after a period of about 10 minutes 
total from the beginning of his symptoms his vision came back to 
normal. He denies any pain in the eye or associated headache. He 
has never had anything like this before. He wears glasses and 
says he has noticed a slow decrease in visual acuity in his 
right eye over the last few months and thought he needed to get 
his glasses adjusted. He has not seen an eye doctor in about ___ 
years.

Currently his vision is completely back to his baseline. He 
denies any other symptoms including headache, dizziness, 
weakness, numbness, difficulty walking. He does report a GI 
illness over the weekend with nausea/vomiting but denies any 
other recent illnesses or fever/chills. He has also been dealing 
with kidney stones over the last month. ROS is otherwise 
negative throughout.

Of note he had previously been on aspirin 81mg daily for the 
last ___ years but stopped taking it 3 weeks ago as he had been 
scheduled for a lithotripsy. This was subsequently canceled but 
he had not yet restarted taking his aspirin. Today after his 
episode of vision loss he took two baby aspirin before coming to 
the ED.

 
Past Medical History:
Hyperlipidemia
Hypothyroidism
Aortic root dilation
PVC's
Multiple episodes of bilateral blurred vision, dizziness, and
nausea for the last ___ years. A previous cardiac work-up had
been negative but he had a second cardiac work-up after a more
severe episode last ___ including a stress echo which showed
mild aortic root dilation. He is currently followed by ___ in ___. Routine EEG was negative. MRI
brain showed a small area of gliosis in the R parietal region. 
He
was started on notriptyline in ___ with the thought that
these could represent migrainous phenomena, and these episodes
have actually resolved since then.
 
Social History:
___
Family History:
His father at ___ had some stroke like symptoms.  
He is not aware of any seizure or migraine history in
this family.  
He does have a distant grand nephew with autism. 

 
Physical Exam:
Physical Examination on Admission

Vitals: 97.2 66 136/84 18 100% RA 
General: Awake, pleasant and cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Attentive, able to relate
history without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Speech was not dysarthric. Able to
follow both midline and appendicular commands. The pt had good
knowledge of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. Visual acuity ___ on L, ___ on
R (uncorrected). VFF to confrontation with red pin. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. No
evidence of plaque or embolus seen.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick throughout.
Vibration intact at b/l great toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Normal steady casual gait

================================================

Physical Examination on Discharge

Vitals: 
General: Awake, pleasant and cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic
- PERRL 3 to 2mm and brisk. Visual acuity ___ on L, ___ on
R (uncorrected). VFF to confrontation with red pin. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. No
evidence of plaque or embolus seen.
- No new focal neurological deficits noted during course of 
admission

 
Pertinent Results:
LABS:

___ 01:05PM   GLUCOSE-97 UREA N-16 CREAT-1.2 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-30 ANION GAP-11
___ 01:05PM   estGFR-Using this
___ 01:05PM   WBC-6.6 RBC-5.03 HGB-15.8 HCT-46.7 MCV-93 
MCH-31.3 MCHC-33.7 RDW-12.3
___ 01:05PM   NEUTS-67.0 ___ MONOS-6.7 EOS-1.0 
BASOS-0.5
___ 01:05PM   PLT COUNT-229
___ 01:05PM   ___ PTT-31.3 ___
___ 07:25AM BLOOD %HbA1c-5.4 eAG-108
___ 07:25AM BLOOD Triglyc-120 HDL-29 CHOL/HD-4.3 LDLcalc-71

Microbiology: None

Pathology: None

Imaging/Studies: 
#CT HEAD W/O CONTRAST (___): No evidence of acute 
intracranial hemorrhage or large territorial infarction. MRI is 
more sensitive for the detection of acute ischemia.  
#CTA HEAD W&W/O C & RECO ___ preliminary report): normal 
study
#CTA NECK W&W/OC & RECONS ___ preliminary report): normal 
study
#CT HEAD W/O CONTRAST (___): No evidence of acute 
intracranial hemorrhage or large territorial infarction.
#MRI BRAIN (___): There is no acute infarction, 
intracranial hemorrhage, extracerebral fluid collection, midline 
shift or mass effect.  The cerebral volume is appropriate for 
the patient's stated age.  Flow voids are maintained. 

#TTE (___): No evidence of intracardiac shunt by saline 
contrast study. Normal biventricular size and funcion. No 
clinically significant valvular disease is seen. Mildly dilated 
aortic root.

 
Brief Hospital Course:
#TIA
Mr. ___ is a ___ man with a history of 
hyperlipidemia and episodes of blurred vision and dizziness 
thought possibly to be related to a migrainous phenomenon who 
presented with an episode of complete vision loss in his right 
eye. A CT/CTA done in the ER did not demonstrate an acute 
intracranial process. He was admitted to the stroke service 
where he did not develop any new episodes of visual blurring, 
loss of vision, or visual disturbances. Visual acquity, visual 
fields examination, assessment of pupillary reflex and 
fundoscopic examination remained unremarkable. An MRI brain 
without contrast did not show an acute infarct.

As part of his stroke risk factor screening, a trans-thoracic 
echo was done, which showed a mildly dilated aortic root, but no 
thrombus or shunt. His LDL was noted to be 71 and HbA1c was 5.4. 
He was restarted on aspirin 81mg PO daily, as he had previously 
discontinued it in preparation for a lithotripsy procedure. He 
was also continued on Simvastatin 20mg daily.

Mr. ___ was discharged in stable condition. He will follow 
up as outpatient with his primary neurologist, Dr. ___.

=============================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? () Yes (LDL = ) - 
() No

5. Intensive statin therapy administered? () Yes - (x) No 

6. Smoking cessation counseling given? () Yes - () No [if no, 
reason: (x) non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (x) N/A

 
Medications on Admission:
Levothyroxine 150mcg tablet PO daily 
Simvastatin 20mg tablet PO daily
Aspirin 81mg tablet (___) PO daily (stopped for 3 weeks)
Ibuprofen (dosage uncertain)
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium 150 mcg PO DAILY 
3. Nortriptyline 10 mg PO HS 
4. Simvastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of blurred vision and 
dizziness
resulting from an TRANSIENT ISCHEMIC ATTACK, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
TEMPORARILY blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
1. High cholesterol

We are changing your medications as follows:
1. RESUMING your baby ASA 81mg

Please take your other medications as prescribed.
Your echo did not show any clot. 

We will call you with your cholesterol results.

Please followup with Neurology and your primary care physician 
as listed below.
It was a pleasure providing you with care during this 
hospitalization.

 
Followup Instructions:
___